* Cascode Miller OTA - Figures of Merit Testbench
* LELEC2650 Project
* Calculates: FoM, ICMR, Output Swing, Gain Margin, Rout
*-----------------------------------------------

************************************
*	Library & Technology settings
************************************

.lib '/dir/TECHNOLOGY/cds2024/TSMC-N65/CMOS/LP/pdk/models/eldo/toplevel.eldo' tt_lib

*** Include device netlist
.include ./CascodeMillerOTA.cir

***** Supply voltage *****
VVDD VDD GND DC vdd_val

*******************************
*	Stimuli - Open loop with LSTB
*******************************

*** Pseudo closed-loop with LSTB for AC analysis
VSTB INm OUT
VVINp INp GND DC VIN
.LSTB VSTB

**********************************
*	Simulations
**********************************

.OP

*** AC for gain/phase margins
.AC dec 50 1 1e9

*** DC sweep for ICMR and output swing
.DC VVINp 0 1.2 10m

**********************************
*	Measurements - Operating Point
**********************************

*** Total current consumption
.extract DC label=I_total '-I(VVDD)'
.extract DC label=Power 'V(VDD)*(-I(VVDD))'

*** Output resistance (from small-signal parameters)
.extract DC label=gds9 gds(xM9.MAIN)
.extract DC label=gds10 gds(xM10.MAIN)
.extract DC label=Rout '1/(gds(xM9.MAIN) + gds(xM10.MAIN))'

**********************************
*	Measurements - AC (Gain & Phase Margins)
**********************************

*** Gain
.extract AC label=Av0_dB 'max(LSTB_DB)'
.extract AC label=Av0 '10^(max(LSTB_DB)/20)'

*** Transition frequency
.extract AC label=fT 'xthres(LSTB_DB, 0)'

*** Phase Margin
.extract AC label=Phase_Margin '180 - yval(LSTB_P,1) + xycond(LSTB_P, LSTB_DB<0)'

*** Gain Margin: gain at frequency where phase crosses 0° (= -180° absolute)
.extract AC label=f_phase180 'xthres(LSTB_P, 0)'
.extract AC label=Gain_Margin '-yval(LSTB_DB, xthres(LSTB_P, 0))'

**********************************
*	Measurements - DC Sweep (ICMR & Output Swing)
**********************************

*** Output swing from DC sweep
.extract DC label=VOUT_min 'ymin(V(OUT))'
.extract DC label=VOUT_max 'ymax(V(OUT))'
.extract DC label=Output_Swing 'ymax(V(OUT)) - ymin(V(OUT))'

*** ICMR - sample output at different input levels
.extract DC label=VOUT_at_VIN_0p2 'yval(V(OUT), 0.2)'
.extract DC label=VOUT_at_VIN_0p6 'yval(V(OUT), 0.6)'
.extract DC label=VOUT_at_VIN_1p0 'yval(V(OUT), 1.0)'

**********************************
*	Figure of Merit
**********************************

*** FoM = fT * CL / I_total [MHz*pF/µA]
*** Calculated in post-processing from fT, CL, I_total

*** CL value for reference
.extract DC label=CL_pF 'Cl_val * 1e12'

*** Print summary
.plot AC LSTB_DB LSTB_P
.plot DC V(OUT) V(INp)

.end
